US08604251B2
1-(4-{Bromo-[4-(2-chloro-2-methyl-propionyl)-phenyl]-methyl}-phenyl)-2-chloro-2-methyl-propan-1-one
A 350 ml sulfonation flask fitted with stirrer, reflux condenser and pressure equalized dropping funnel is charged with 2-chloro-1-{4-[4-(2-chloro-2-methyl-propionyl)-benzyl]-phenyl}-2-methyl-propan-1-one (113.1 g, 0.3 mol) and ortho-dichlorobenzene (150 ml). The mixture is heated to 150° C., and then a solution of bromine (49.6 g, 0.3 mol) in ortho-dichlorobenzene (50 ml) is added slowly in such a way that the bromine is reacted before the addition of the next drop of the bromine solution. When all the bromine has been added, the mixture is kept at 150° C. for another ten minutes, and then the ortho-dichlorobenzene is carefully removed on the rotavapor. The residue is recrystallized from hexanes to give the product (116.3 g, 85% of theory) as off white crystals, mp.=93° C. 1H-NMR (CDCl3, 400 MHz) δ 1.89 (s, 12 H, CH3); 6.29 (s, 1 H, CH); 7.54 (m, 4 H, H-4); 7.73 (m, 4 H, H-3). 13C-NMR (CDCl3, 100 MHz) δ 30.47 (C-8); 52.82 (C-1), 68.30 (C-7) 128.22 (C-3), 130.57 (C-4), 134.19 (C-5); 144.54 (C-2); 198.26 (C-6).

reactant | 2-chloro-1-{4-[4-(2-chloro-2-methyl-propionyl)-benzyl]-phenyl}-2-methyl-propan-1-one | 0.3 mol, 113.1 g | ClC(C(=O)C1=CC=C(C=C1)CC1=CC=C(C=C1)C(C(C)(C)Cl)=O)(C)C | C21H22Cl2O2
reactant | bromine | 0.3 mol, 49.6 g | BrBr | Br2
solvent | ortho-dichlorobenzene | 50 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | ortho-dichlorobenzene | 150 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-(4-{Bromo-[4-(2-chloro-2-methyl-propionyl)-phenyl]-methyl}-phenyl)-2-chloro-2-methyl-propan-1-one | BrC(C1=CC=C(C=C1)C(C(C)(C)Cl)=O)C1=CC=C(C=C1)C(C(C)(C)Cl)=O | C21H21BrCl2O2
